US08871753B2
Step D: Methyl 3-ethynyl-5-nitrobenzoate
Methyl 3-nitro-5-[(trimethylsilyl)ethynyl]benzoate (7.9 g, 28 mmol) was dissolved in THF (90 mL) and methanol (90 mL) and then potassium carbonate (2.0 g, 14 mmol) was added. The resulting solution was stirred at room temperature for 1 hour. The reaction was quenched with 1 N HCl, and the solvent was removed in vacuo. The aqueous residue was extracted with ethyl acetate twice. The combined organic solutions were washed with brine, dried over Na2SO4, filtered and concentrated to give a solid. The solid was washed with ether to give the desired product (4 g, 68%). LCMS for C10H8NO4 (M+H)+: m/z=206.0.

reactant | Methyl 3-nitro-5-[(trimethylsilyl)ethynyl]benzoate | 28 mmol, 7.9 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C#C[Si](C)(C)C | C13H15NO4Si
reactant | methanol | 90 mL | CO | CH4O
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | Methyl 3-ethynyl-5-nitrobenzoate | 4 g, 68% | C(#C)C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C10H7NO4
